US05151534
In a second stage, the dianion of propargyl alcohol is formed by adding 19 g of propargyl alcohol, with stirring, to the above reaction mixture, cooled to 0° C. At the end of the addition, the mixture is stirred for another 1 h 30 min at ambient temperature. 0.5 g of copper cyanide is then added and stirring is continued for another 1 h 30 min, still at ambient temperature. 40.54 g of 1-chloro-2,5-tetradecadiyne are introduced dropwise into the mixture thus obtained, cooled to 0° C. The mixture is left to stand overnight at ambient temperature and it is then heated under reflux for 9 hours. The solvent is then removed by evaporation under vacuum and the residue obtained is extracted with methylene chloride. The organic phase is then washed with water, dried over magnesium sulphate and concentrated under reduced pressure. The solid obtained is dissolved in 350 cm3 of boiling hexane. The expected alcohol crystallizes on cooling. It is filtered off and dried. 25 g of 2,5,8-heptadecatriyn-1-ol are obtained in the form of white crystals whose melting point is 48° C. Its 1H NMR spectrum is consistent with the expected structure.

reactant | propargyl alcohol | 19 g | C(C#C)O | C3H4O
reactant | 1-chloro-2,5-tetradecadiyne | 40.54 g | ClCC#CCC#CCCCCCCCC | C14H21Cl
solvent | hexane | 350 cm3 | CCCCCC | C6H14
catalyst | copper cyanide | 0.5 g | [Cu](C#N)C#N
product | 2,5,8-heptadecatriyn-1-ol | 25 g | C(C#CCC#CCC#CCCCCCCCC)O | C17H24O
